* Schematics Netlist *



Q_Q4         $N_0002 $N_0001 $N_0003 Q2N2907A
Q_Q10         $N_0005 $N_0004 $N_0006 Q2N2222
Q_Q2         $N_0003 $N_0007 $N_0008 Q2N2907A
Q_Q1         $N_0007 $N_0007 $N_0005 Q2N2907A
V_V2         $N_0005 0 9V
V_V3         0 $N_0009 9V
Q_Q5         $N_0010 $N_0010 $N_0009 Q2N2222
Q_Q6         $N_0002 $N_0010 $N_0009 Q2N2222
Q_Q7         $N_0005 $N_0002 $N_0011 Q2N2222
Q_Q8         $N_0004 $N_0011 $N_0009 Q2N2222
Q_Q9         $N_0004 $N_0007 $N_0005 Q2N2907A
R_R3         $N_0009 $N_0011  460k  
R_R4         $N_0009 $N_0006  200k  
R_R1         $N_0009 $N_0007  17.4k  
R_R2         $N_0008 $N_0005  180  
Q_Q3         $N_0010 $N_0012 $N_0003 Q2N2907A
V_V7         $N_0013 0 -108.4u
V_V9         $N_0012 $N_0013 DC 0V AC 5u 
V_V10         $N_0001 0 DC 0V AC 5u 
